US04447429
To a mixture of methyl 5-amino-1,2,4-thiadiazole-3-carboxylate (26 g), conc.hydrochloric acid (490 ml) and a small amount of copper was added dropwise over 40 minutes a solution of sodium nitrite (22.5 g) in water (28 ml) at -10° to -15° C. The mixture was stirred for 1.5 hours at the same temperature and for 30 minutes at 50° C. The reaction mixture was poured into ice-water (500 ml) and extracted with ethyl acetate. The extract was washed, dried and concentrated to give white powder of methyl 5-chloro-1,2,4-thiadiazole-3-carboxylate (8.9 g).

reactant | methyl 5-amino-1,2,4-thiadiazole-3-carboxylate | 26 g | NC1=NC(=NS1)C(=O)OC | C4H5N3O2S
reactant | hydrochloric acid | 490 ml | Cl | ClH
reactant | sodium nitrite | 22.5 g | N(=O)[O-].[Na+]
solvent | water | 28 ml | O | H2O
catalyst | copper | [Cu] | Cu
product | methyl 5-chloro-1,2,4-thiadiazole-3-carboxylate | 8.9 g | ClC1=NC(=NS1)C(=O)OC | C4H3ClN2O2S
